US06713471B1
The tert-butyl(6bR,10aS)-5-(2,6-difluorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (288 mg, 76%) was prepared via coupling of tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (0.350 g, 0.851 mmol) with 2,6-difluorophenyltrimethyl stannane (0.707 g, 2.553 mmol) using the procedure described in Example 447 Step G.

reactant | tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 0.851 mmol, 0.350 g | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2S
reactant | 2,6-difluorophenyltrimethyl stannane | 2.553 mmol, 0.707 g | FC1=C(C(=CC=C1)F)[Sn](C)(C)C
product | tert-butyl(6bR,10aS)-5-(2,6-difluorophenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 288 mg, 76% | FC1=C(C(=CC=C1)F)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C24H26F2N2O2S
